US09359377B2
To a solution of methyl 6-[2-(4-methoxyphenyl)-2-oxoethyl]-6H-thieno[2,3-b]pyrrole-5-carboxylate (100 mg, 0.30 mmol) in 1,4-dioxane (10 mL) was added ethylenediamine (0.78 mL, 12 mmol) and the mixture heated at reflux. The reaction was monitored by LCMS. Upon completion, the reaction mixture was concentrated in vacuo and the residue purified by flash chromatography (1 to 6% methanol-dichloromethane) to yield 11a-(4-methoxyphenyl)-2,3,11,11a-tetrahydro-1H,5H-imidazo[1,2-a]thieno[3′,2′:4,5]pyrrolo[1,2-d]pyrazin-5-one (75 mg, 73% yield) as a white solid. ESI-MI m/z [M+H]+ 340.25. 1H NMR (400 MHz, CDCl3) δ 7.31 (d, J=8.7 Hz, 2H), 7.14 (s, 1H), 6.96 (d, J=5.3 Hz, 1H), 6.82 (d, J=5.3 Hz, 1H), 6.78 (d, J=8.7 Hz, 2H), 4.52 (d, J=11.7 Hz, 1H), 4.25 (d, J=11.7 Hz, 1H), 4.02-3.89 (m, 1H), 3.73 (s, 3H), 3.64-3.51 (m, 1H), 3.37-3.26 (m, 1H), 3.08-2.94 (m, 1H).

reactant | methyl 6-[2-(4-methoxyphenyl)-2-oxoethyl]-6H-thieno[2,3-b]pyrrole-5-carboxylate | 0.30 mmol, 100 mg | COC1=CC=C(C=C1)C(CN1C2=C(C=C1C(=O)OC)C=CS2)=O | C17H15NO4S
reactant | ethylenediamine | 12 mmol, 0.78 mL | C(CN)N | C2H8N2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 11a-(4-methoxyphenyl)-2,3,11,11a-tetrahydro-1H,5H-imidazo[1,2-a]thieno[3′,2′:4,5]pyrrolo[1,2-d]pyrazin-5-one | 75 mg, 73% yield | COC1=CC=C(C=C1)C12N(C(C=3N(C1)C1=C(C3)C=CS1)=O)CCN2 | C18H17N3O2S
